US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (535 mg: 0.51 mMol.) in a mixture of anisole (1 ml) and nitromethane (4 ml) is added a solution of aluminum chloride (0.61 g: 4.6 mMol.) in anisole (2 ml) at -30° C. and the mixture is stirred for 40 minutes. The reaction mixture is mixed with ethanol (2 ml), stirred for 5 minutes at the same temperature, diluted with 1N-hydrochloric acid (6 ml) and water (200 ml), and washed with ethyl acetate. The aqueous layer is concentrated under reduced pressure to remove the organic solvents and passed through a styrene-divinylbenzene copolymer column. The adsorbed material is eluted with a methanol-water (4:1) mixture. The eluate is concentrated to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethylthio)-3-cephem-4-carboxylic acid as pale yellow solid (201 mg). Yield: 74%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.51 mMol, 535 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SCSC=2SC=NN2 | C52H45N7O7S5
reactant | aluminum chloride | 4.6 mMol, 0.61 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 4 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrochloric acid | 6 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethylthio)-3-cephem-4-carboxylic acid | 201 mg, Yield: 74% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2SC=NN2)C(=O)O)C1=O)=N/O | C15H13N7O5S5
